US04602035
2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-methyl-N-phenethylethylamine fumarate
A mixture of 4.0 g (15.8 mmole) 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine, 6.9 g (50.0 mmole) anhydrous K2CO3, 2.35 ml (17.1 mmole) phenethyl bromide, 0.2 g potassium iodide and 40 ml DMF was warmed to 80° and maintained there for 2 hours. After cooling, the mixture was poured into 400 ml water and extracted with Et2O (3×250 ml). The combined organics were washed with saturated NaCl solution and dried over MgSO4. The crude product, obtained by filtration and evaporation, was converted to a fumarate salt in Et2O. This was recrystallized from CH3CN to give 2.5 g (33%) of solid, m.p. 135.5°-138°.

reactant | 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine | 15.8 mmole, 4.0 g | C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCNC | C17H19NO
reactant | K2CO3 | 50.0 mmole, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenethyl bromide | 17.1 mmole, 2.35 ml | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | Et2O | CCOCC | C4H10O
solvent | water | 400 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-methyl-N-phenethylethylamine fumarate | 2.5 g, 33% | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)C(CNC)CCC2=CC=CC=C2 | InChI=1S/C25H27NO.C4H4O4/c1-26-18-22(17-16-20-10-4-2-5-11-20)25(21-12-6-3-7-13-21)19-27-24-15-9-8-14-23(24)25;5-3(6)1-2-4(7)8/h2-15,22,26H,16-19H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
